US04318912
Anyhdrous chromium trioxide (16.88 g 169 mmol) is added to a solution of anhydrous pyridine (27.3 ml, 338 mmol) in anhydrous methylene chloride (470 ml). The resulting mixture is stirred at room temperature for 30 minutes and then treated with a solution of N-(t-butyldimethylsilyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-hydroxypropyl]-azetidin-2-one (8.92 g, 21.1 mmol) in methylene chloride (80 ml). The reaction mixture is stirred an additional 15 minutes at room temperature and then treated with 2-propanol (6.75 ml). The methylene chloride phase is decanted from the dark, tary residue and evaporated under vacuum. The residue from this operation is triturated with diethyl ether (350 ml) and filtered through a pad of magnesium sulfate which is washed with additional ether (150 ml). The ethereal filtrate is washed with water (200 ml), 5% aqueous sodium bicarbonate (200 ml) and brine, dried with magnesium sulfate, filtered, evaporated under vacuum, and stripped with toluene to afford the crude product (5.99 g) as an amber oil. Chromatigraphy on a silica gel column using 3:2 petroleum etherethyl acetate as eluting solvent yields N-(t-butyldimethylsilyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-azetidin-2-one (5.17 g, 58%) as a pale yellow, viscous oil which solidifies. Trituration with diethyl ether gives the product as small, white crystals: mp 65°-66.5°, IR (CH2CL2) 1732, 1522, and 1350 cm) NMR (CDCl3) 8 0.20 (s,3,CH3), 0.23 (s,3,CH3), 0.93 (s,9,C(CH3)3), 2.58 (dd,1,J=2.7 and 15.7, H3β), 2.72 (dd,1,J=9.4 and 18.2, CH2COCH2CO2), 3.19 (dd,1,J=4.0 and 18.2, CH2COCH2CO2), 3.35 (dd,1,J=5.3 and 15.7,H3α), 3.55 (s,2,COCH2CO2), 3.90 (m,1,H4), 5.30 (s,2,CH2Ar), 7.55 and 8.25 (two d15,4,J-8.5, ArH); MS m/e 405 (M+ -15), 363 (M+ -57), 321 (363-42) and 136.

reactant | pyridine | 338 mmol, 27.3 ml | N1=CC=CC=C1 | C5H5N
reactant | N-(t-butyldimethylsilyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-hydroxypropyl]-azetidin-2-one | 21.1 mmol, 8.92 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C20H30N2O6Si
reactant | 2-propanol | 6.75 ml | CC(C)O | C3H8O
reactant | acetate | C(C)(=O)[O-]
solvent | methylene chloride | 470 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 169 mmol, 16.88 g | [O-2].[O-2].[O-2].[Cr+6]
product | N-(t-butyldimethylsilyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-azetidin-2-one | 5.17 g, 58% | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C20H28N2O6Si
